** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/andgate/schematic/andgate.sch
.subckt andgate VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x1 VDD VA net1 VB VSS nandgate
x2 VDD VOUT net1 VSS inverter
.ends

* expanding   symbol:  blocks/nandgate/schematic/nandgate.sym # of pins=5
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/nandgate/schematic/nandgate.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/nandgate/schematic/nandgate.sch
.subckt nandgate VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=0.45u l=0.13u ng=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends

