** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/dff/schematic/dff.sch
.subckt dff D Q CLR Qb vdd CLK vss
*.PININFO D:B Q:B Qb:B CLK:B CLR:B vdd:B vss:B
x1 clk_neg net1 D vdd vss clk_pos transmissiongate
x2 clk_pos net4 net2 vdd vss clk_neg transmissiongate
x3 clk_pos net1 net3 vdd vss clk_neg transmissiongate
x4 clk_neg net4 Qb vdd vss clk_pos transmissiongate
x5 vdd CLR net2 net3 vss norgate
x6 vdd CLR net4 Q vss norgate
x7 vdd clk_neg CLK vss inverter
x8 vdd net2 net1 vss inverter
x9 vdd Qb Q vss inverter
x10 vdd clk_pos clk_neg vss inverter
.ends

* expanding   symbol:  blocks/transmissiongate/schematic/transmissiongate.sym # of pins=6
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sch
.subckt transmissiongate a_neg out in vdd vss a_pos
*.PININFO vdd:B vss:B out:B in:B a_neg:B a_pos:B
M0 in a_neg out vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
M1 out a_pos in vss sg13_lv_nmos w=0.75u l=0.15u ng=1
.ends


* expanding   symbol:  blocks/norgate/schematic/norgate.sym # of pins=5
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sch
.subckt norgate vdd b_in a_in out vss
*.PININFO a_in:B out:B vss:B vdd:B b_in:B
M1 net1 b_in vdd vdd sg13_lv_pmos w=3.0u l=0.15u ng=1
M2 out a_in vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M3 out b_in vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M4 out a_in net1 vdd sg13_lv_pmos w=3.0u l=0.15u ng=1
.ends


* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter vdd out in vss
*.PININFO vdd:B out:B vss:B in:B
M1 out in vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M2 out in vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
.ends

