* Extracted by KLayout with SG13G2 LVS runset on : 06/03/2026 18:16

.SUBCKT NOR
M$1 VSS VB VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0825p PS=1.34u
+ PD=0.92u
M$2 VOUT VA VSS VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0825p AD=0.1005p PS=0.92u
+ PD=1.34u
M$3 VOUT VB \$6 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0825p PS=1.34u
+ PD=0.92u
M$4 \$6 VA VDD VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0825p AD=0.1005p PS=0.92u
+ PD=1.34u
.ENDS NOR
