** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/orgate/schematic/orgate.sch
.subckt orgate VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x2 VDD VOUT net1 VSS inverter
x1 VDD net1 VA VB VSS norgate
.ends

* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/norgate/schematic/norgate.sym # of pins=5
** sym_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sym
** sch_path: /home/mateo/GitRepos/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sch
.subckt norgate VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 VOUT VA VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
M2 VOUT VB VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
M3 VOUT VB net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
M4 net1 VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

